US06333425B1
In 100 ml of anhydrous tetrahydrofurane under argon at 0° C., 20.27 g (100 mmoles) of 4-styrenesulfonyl chloride CH2═CHC6H4SO2Cl (commercially available from Monomer-Polymer & Dajac Laboratories), 10.42 g (100 mmoles) of malononitrile and 22.44 g (200 mmoles) of DABCO were reacted. After 2 hours at 0° C. and 48 hours at room temperature, the solution was filtered to remove the DABCO hydrochloride formed, and it was treated with 4.24 g of anhydrous lithium chloride (100 mmoles), stored and weighed in a glove box. There is immediately formed a precipitate of DABCO hydrochloride and the reaction mixture was then again filtered after stirring for 6 hours. After evaporation and drying under vacuum during 24 hours at room temperature, 31.16 g of the lithium salt of 4-styrenesulfonylmalononitrile were recovered, with a purity characterized by a proton and carbon RMN higher than 97%.

reactant | malononitrile | 100 mmoles, 10.42 g | C(CC#N)#N | C3H2N2
reactant | DABCO | 200 mmoles, 22.44 g | C1CN2CCN1CC2 | C6H12N2
reactant | lithium chloride | 100 mmoles, 4.24 g | [Cl-].[Li+]
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | DABCO hydrochloride | C1CN2CCN1CC2.Cl | InChI=1S/C6H12N2.ClH/c1-2-8-5-3-7(1)4-6-8;/h1-6H2;1H
